US09371333B2
3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-9-chloro-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile (35)
5-Chloro-8-hydroxyquinoline (790.2 mg, 4.4 mmol), 5-bromo-3,4-dimethoxy-benzaldehyde (1.077 mg, 4.4 mmol) and malononitrile (295 mg, 4.4 mmol) were taken in 40 ml ethanol at room temperature, charged with DABCO (48.4 μl, 1.46 mmol) and then stirred at 80° C. under LC-MS control for 18 h. The reaction mixture was cooled down to room temperature, diluted with water to about 100 ml and the solid were collected by filtration. It was washed with 50% aqueous ethanol. The solids were taken in 15 ml 2-propanol and stirred at 60° C. for 10 minutes, cooled down by dipping the flask in an ice bath, the solids were filtered and dried under vacuum to get the pure title compound (1.25 g, 2.64 mmol, 60%).

reactant | 5-Chloro-8-hydroxyquinoline | 4.4 mmol, 790.2 mg | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | 5-bromo-3,4-dimethoxy-benzaldehyde | 4.4 mmol, 1.077 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 4.4 mmol, 295 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 1.46 mmol, 48.4 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-9-chloro-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile | 2.64 mmol, 1.25 g, 60% | NC1=C(C(C=2C=C(C3=CC=CN=C3C2O1)Cl)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C21H15BrClN3O3
